US05436224
Production of 5-isobutyl-6-methyl-3-[1-methyl-1-(3-chlorophenyl)ethyl]-2,3-dihydro-4H-1,3-oxazin -4-one (Compound No. 514)
Xylene (1 ml) was added to a mixture of 5-isobutyl-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one (0.59 g) and N-methylene-1-methyl-1-(3-chlorophenyl)ethylamine (0.55 g), and the resulting mixture was heated at reflux for 60 minutes for reaction. The reaction mixture was purified by silica gel chromatography to obtain the captioned compound (0.52 g).

reactant | 5-isobutyl-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one | 0.59 g | C(C(C)C)C=1C(OC(OC1C)(C)C)=O | C11H18O3
reactant | N-methylene-1-methyl-1-(3-chlorophenyl)ethylamine | 0.55 g | C=NC(C)(C1=CC(=CC=C1)Cl)C | C10H12ClN
solvent | Xylene | 1 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-isobutyl-6-methyl-3-[1-methyl-1-(3-chlorophenyl)ethyl]-2,3-dihydro-4H-1,3-oxazin -4-one | 0.52 g | C(C(C)C)C=1C(N(COC1C)C(C)(C1=CC(=CC=C1)Cl)C)=O | C18H24ClNO2
